US05856556
p-Nitrobenzyl (5R, 6S)-6-[(R)-1-t-butyldimethylsilyloxyethyl]-2-(phenylthio)carbapen-2-em-3-carboxylate
A mixture of 114 mg (0.194 mmole) of (3S, 4R)-3-[(R)-1-t-butyldimethylsilyloxyethyl]-1-(p-nitrobenzyloxyethyl)-4-[(phenylthio)carbonylmethyl]-2-azetidinone, 258 mg (1.55 mmole) of triethyl phosphate and 10 ml of toluene was stirred at 100° C. for 18 hours under a nitrogen atmosphere. The solvent was distilled off, and the residue was purified by the procedure described in Example 5, to give 95 mg (yield 88%) of the title product , in the form of crystals.

reactant | (3S, 4R)-3-[(R)-1-t-butyldimethylsilyloxyethyl]-1-(p-nitrobenzyloxyethyl)-4-[(phenylthio)carbonylmethyl]-2-azetidinone | 0.194 mmole, 114 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1CC(=O)SC1=CC=CC=C1)CCOCC1=CC=C(C=C1)[N+](=O)[O-])=O | C28H38N2O6SSi
reactant | triethyl phosphate | 1.55 mmole, 258 mg | P(=O)(OCC)(OCC)OCC | C6H15O4P
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | p-Nitrobenzyl (5R, 6S)-6-[(R)-1-t-butyldimethylsilyloxyethyl]-2-(phenylthio)carbapen-2-em-3-carboxylate | 95 mg, yield 88% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)SC2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C28H34N2O6SSi
